### PR TITLE
Add Erdős Problem 225 (L¹ norm of trigonometric polynomials with real zeros), link the formal proof

### LINKED ISSUE #6297: Erdős Problem 225
### What is the Erdős problem?

https://www.erdosproblems.com/225

Let $f(\theta) = \sum_{0\leq k\leq n}c_k e^{ik\theta}$ be a trigonometric polynomial all of whose roots are real, such that $\max_{\theta\in [0,2\pi]}\lvert f(\theta)\rvert=1$. Then $\int_0^{2\pi}\lvert f(\theta)\rvert \mathrm{d}\theta \leq 4$.

Status: proved (Kristiansen for real coefficients; Saff–Sheil-Small in general). A formal proof exists in plby/lean-proofs (`Erdos225.erdos_225_of_onlyRealAngularRoots`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-30
* ams-42

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6297.

### What changed
Adds `FormalConjectures/ErdosProblems/225.lean` with `trigPoly n c z = ∑ c_k e^{ikz}` (as an entire function) and:
- `erdos_225` (`research solved`, `answer(True)`): if all zeros of `f` are real and `max |f| = 1` on `[0, 2π]`, then `∫₀^{2π} |f| ≤ 4` (Kristiansen [Kr74], Saff–Sheil-Small [SaSh74]). The statement is normalised by `n ≥ 1` and `c₀ cₙ ≠ 0` (a factor `e^{imθ}` changes neither the zeros nor `|f|`, and a single term `c_m e^{imθ}` has no zeros but `∫|f| = 2π`), as explained in the docstring. Linked to plby/lean-proofs `Erdos225.erdos_225_of_onlyRealAngularRoots` (Codex and GPT-5.6 Sol; three Mathlib-only files).

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos225.erdos_225_of_onlyRealAngularRoots` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (the definitions coincide):

<details>
<summary>Bridge</summary>

```lean
open Set

namespace Bridge225

lemma trigPoly_eq (n : ℕ) (c : ℕ → ℂ) (z : ℂ) :
    Erdos225.trigPoly n c z = Erdos225Plby.entireTrigPolynomial n c z := rfl

lemma trigPoly_real (n : ℕ) (c : ℕ → ℂ) (θ : ℝ) :
    Erdos225.trigPoly n c θ = Erdos225Plby.trigPolynomial n c θ := rfl

theorem erdos_225_bridge : type_of% Erdos225.erdos_225 := by
  show True ↔ _
  simp only [true_iff]
  intro n c hn hc0 hcn hreal hle hmax
  simp only [trigPoly_real] at hle hmax ⊢
  exact Erdos225Plby.erdos_225_of_onlyRealAngularRoots n c hn hcn hc0 hreal ⟨hle, hmax⟩

end Bridge225
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«225»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/225.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/225.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
